Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Ulcerative Colitis 
 
Major Surgical or Invasive Procedure:
Completion proctectomy, ileal pouch to the anal canal 
anastomosis with temporary diverting loop ileostomy.

 
History of Present Illness:
___ year old female patient with PMH significant for Ulcerative 
Colitis who presented in ___ to ___ for treatment of toxic 
magacolon related to Ulcerative colitis. She had an open total 
abdominal colectomy on ___, the first of a 3 step procedure. 
The patient presented to ___ for elective proctectomy and 
creation of a J Pouch and loops ileostomy. Prior to this 
admission and after her original surgery, the patient was 
admitted to ___ and treated for pancreatitis. 
 
Past Medical History:
PMH: (per OMR) Ulcerative colitis ___, 3 flares including  
current presenation, maintenance asacol, stable  
proctosigmoiditis, now pancolitis.  
 
PSH: LEEP x2  

 
Social History:
___
Family History:
Maternal aunt with UC. Maternal GM with spastic colon. Father 
with GERD. Various family members with IBS. 
 
Physical Exam:
GEN: Supine in bed, uncomfortable, non-toxic appearing 
CV: RRR, no m/g/r
Resp: CTAB
Abd: Soft, non-distended, hypoactive BS, midline scar well
healed, ileostomy WNL greenish toothpaste consistency output, 
TTP
epigastrium and LUQ, no peritoneal signs or rebound. No TTP in
LLQ or around stoma site.
Ext: warm, well-perfused

 
Pertinent Results:
___ 05:20PM BLOOD Hct-27.0*
___ 05:30AM BLOOD WBC-11.2* RBC-3.07* Hgb-8.4* Hct-25.9* 
MCV-84 MCH-27.3 MCHC-32.4 RDW-12.8 Plt ___
___ 01:00AM BLOOD WBC-12.0* RBC-3.39* Hgb-9.5* Hct-28.8* 
MCV-85 MCH-27.9 MCHC-32.9 RDW-12.9 Plt ___
___ 01:40PM BLOOD WBC-15.1* RBC-3.71* Hgb-10.1* Hct-31.1* 
MCV-84 MCH-27.1 MCHC-32.4 RDW-13.8 Plt ___
___ 05:45AM BLOOD WBC-14.0*# RBC-4.07* Hgb-11.0* Hct-34.2* 
MCV-84 MCH-26.9* MCHC-32.1 RDW-12.6 Plt ___
___ 08:15PM BLOOD Hct-39.2
___ 05:30AM BLOOD Plt ___
___ 01:00AM BLOOD Plt ___
___ 05:30AM BLOOD Glucose-79 UreaN-5* Creat-0.4 Na-138 
K-3.8 Cl-102 HCO3-28 AnGap-12
___ 01:00AM BLOOD Glucose-89 UreaN-6 Creat-0.4 Na-138 K-3.7 
Cl-102 HCO3-27 AnGap-13
___ 01:40PM BLOOD Glucose-90 UreaN-10 Creat-0.6 Na-138 
K-4.2 Cl-104 HCO3-24 AnGap-14
___ 05:45AM BLOOD Glucose-92 UreaN-11 Creat-0.5 Na-138 
K-4.1 Cl-103 HCO3-27 AnGap-12
___ 08:15PM BLOOD Na-141 K-3.9 Cl-105
___ 05:30AM BLOOD Amylase-14
___ 05:30AM BLOOD Calcium-8.0* Phos-2.9 Mg-2.1
___ 01:00AM BLOOD Calcium-7.5* Phos-2.2*# Mg-1.7
___ 05:45AM BLOOD Calcium-8.3* Phos-5.1* Mg-2.1
___ 08:15PM BLOOD Mg-1.7
 
Brief Hospital Course:
The patient was admitted to the inpatient colorectal surgery 
service after proctectomy, Jpouch creation, and loop ileostomy. 
The patient was noted to have an oxygen saturation in the 70's 
on room air. The patient was placed on continuous O2 saturation 
monitoring, her saturation remained stable as her pain 
medicaiton was decreased. The patient was monitored closely. On 
post-operative day one the patient was noted to have increased 
pain and abdominal distension. She was followed by the acute 
pain service for possible epidural placment. She consented to 
the epidrual placment, the patient was taken to the PACU and 
when she was turned, she was noted to pass approximately ___ cup 
of blood per rectum. Her heart rate climbed to 140. He was 
evaluated, and her panin was improved Her hematocrit was 
followed every 6 hours after this time and stabilized. With 
fluid boluses for decreased urine output and tahcycardia, her 
heart rate recovered to 104-110. On post-operative day two, the 
patient was noted to have a fever >100. A UA/UC and BC were 
sent. Urine culture was possitive for gram positive cocci. She 
was monitored closely. Her diet was advanced very slowly 
throughout her hospital stay, on hospital day ___ she began to 
have output from the ileostomy. She continued to ambulated the 
inpatient unit. On post-operative day four, she began to 
experience nausea and emesis. Her diet  was backed to ice chips 
for comfort. The epidural was removed this day as well as her 
foley catheter. She voided without issue. The patient slowly 
began to advance to a regular diet. Her oral intake waxed and 
waned as she was intermittently nauseated. An abdominal film was 
obtained on ___ to evaluate for ileus which was unremarkable. 
The patient continued to pass stool and gas through the 
ileostomy. On ___ the patient was able to tolerate a regular 
diet and her pain was well controlled on oral medication. She 
was educated in ostomy care, and deemed appropriate for 
discharge.
 
Medications on Admission:
1.Acetaminophen 325 mg PO Q6H:PRN pain  
2.HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain  
___ 10 mg PO Q6H:PRN nausea  
4.Ibuprofen 400 mg PO Q8H:PRN pain  
5.Zolpidem Tartrate 5 mg PO HS insomnia  
6.Ondansetron 4 mg PO Q8H:PRN nausea  
7.Pantoprazole 40mg'  

 
Discharge Medications:
1. Pantoprazole 40 mg PO Q24H 
2. Acetaminophen 650 mg PO Q6H:PRN pain 
3. Metoclopramide 10 mg PO Q6H 
RX *metoclopramide HCl 10 mg 1 Tablet by mouth Q6HRS Disp #*60 
Tablet Refills:*0
4. Ondansetron 4 mg PO Q6H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth Q6HRS Disp #*60 Tablet 
Refills:*0
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
hold  for sedation or Rr<12 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4HRS Disp #*80 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ulcerative colitis status post total abdominal colectomy and 
ileostomy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted to the hospital for an open proctectomy w/ 
/J-pouch and temporary ileostomy. This is the second step in 
your three step procedure for the treatment of your Ulcerative 
Colitis. ___ will have a pouch-o-gram to inspect the pouch to be 
sure it is healed prior to your second follow-up appointment 
with Dr. ___. This will be arranged by the outpatient clinic. 
___ will be readmitted after the pouch has healed for an 
ileostomy takedown. ___ are tolerating a regular diet and your 
pain is controlled by pain medications by mouth. ___ are ready 
to be dischraged home. If ___ have any of the following symptoms 
please call the office for advice or go to the emergency room if 
severe: increasing abdominal distension, increasing abdominal 
pain, nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or constipation. 

___ have a new ileostomy. The most common complication from a 
new ileostomy placement is dehydration. The output from the 
stoma is stool from the small intestine and the water content is 
very high. The stool is no longer passing through the large 
intestine which is where the water from the stool is reabsorbed 
into the body and the stool becomes formed. ___ must measure 
your ileostomy output for the next few weeks. The output from 
the stoma should not be more than 1200cc or less than 500cc. If 
___ find that your output has become too much or too little, 
please call the office for advice. The office nurse or nurse 
practitioner can recommend medications to increase or slow the 
ileostomy output. Keep yourself well hydrated, if ___ notice 
your ileostomy output increasing, take in more electrolyte drink 
such as Gatorade. Please monitor yourself for signs and symptoms 
of dehydration including: dizziness (especially upon standing), 
weakness, dry mouth, headache, or fatigue. If ___ notice these 
symptoms please call the office or return to the emergency room 
for evaluation if these symptoms are severe. ___ may eat a 
regular diet with your new ileostomy. However it is a good idea 
to avoid fatty or spicy foods and follow diet suggestions made 
to ___ by the ostomy nurses.

___ monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own. 

Currently your ileostomy is allowing the surgery in your large 
intestine to heal, which does take some time. ___ will come back 
to the hospital for reversal of this ileostomy when decided by 
Dr. ___ will follow-up in the clinic, and the 
surgeon will decide when will be the best time for your second 
surgery. Until this time there is healthy intestine that is 
still functioning as it normally would and it will produce mucus 
and some may leak or ___ may feel as though ___ need to have a 
bowel movement and ___ may sit on the toilet and empty this 
mucus, it is normal. 

___ have a long vertical incision on your abdomen that is closed 
with dermabond. This incision can be left open to air or covered 
with a dry sterile gauze dressing if the incision becomes 
irritated from clothing. Please monitor the incision for signs 
and symptoms of infection including: increasing redness at the 
incision, opening of the incision, increased pain at the 
incision line, draining of white/green/yellow/foul smelling 
drainage, or if ___ develop a fever. Please call the office if 
___ develop these symptoms or go to the emergency room if the 
symptoms are severe. ___ may shower, let the warm water run over 
the incision line and pat the area dry with a towel, do not rub. 


No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by Dr. ___ Dr. ___ may 
gradually increase your activity as tolerated but clear heavy 
exercise with Dr. ___ Dr. ___. 

___ will be prescribed a small amount of the pain medication 
Oxycodone. Please take this medication exactly as prescribed. 
___ may take Tylenol as recommended for pain. Please do not take 
more than 4000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication. 

Thank ___ for allowing us to participate in your care! Our hope 
is that ___ will have a quick return to your life and usual 
activities. Good luck!

 
Followup Instructions:
___